US08247429B2
methyl 5-(3-methoxy-3-oxopropyl)-2,3-dimethyl-2H-indazole-4-carboxylate
To a solution of methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2,3-dimethyl-2H-indazole-4-carboxylate (726 mg, 2.52 mmol) in methanol (25 mL) was added palladium-carbon powder (145 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (666 mg, yield 91%).

reactant | methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2,3-dimethyl-2H-indazole-4-carboxylate | 2.52 mmol, 726 mg | COC(/C=C/C1=C(C2=C(N(N=C2C=C1)C)C)C(=O)OC)=O | C15H16N2O4
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium-carbon | 145 mg | [C].[Pd]
product | methyl 5-(3-methoxy-3-oxopropyl)-2,3-dimethyl-2H-indazole-4-carboxylate | 666 mg, yield 91% | COC(CCC1=C(C2=C(N(N=C2C=C1)C)C)C(=O)OC)=O | C15H18N2O4
